US04061663
2,2-Diphenyl-1,3-bis-O-sulfamyl-1,3-propanediol is prepared in an identical manner as the sulfamate reported in Example 1 except for the use of 2,2-diphenyl-1,3-propanediol (87.7 g., 0.385 mol.) as the alkanediol.

reactant | sulfamate | S(N)([O-])(=O)=O
reactant | 2,2-diphenyl-1,3-propanediol | 0.385 mol, 87.7 g | C1(=CC=CC=C1)C(CO)(CO)C1=CC=CC=C1 | C15H16O2
product | 2,2-Diphenyl-1,3-bis-O-sulfamyl-1,3-propanediol | C1(=CC=CC=C1)C(COS(N)(=O)=O)(COS(N)(=O)=O)C1=CC=CC=C1 | C15H18N2O6S2
